US08497293B2
A mixture of 2-(2-methyl-3-trifluoromethyl-phenoxy)-butyronitrile (192 mg, 0.790 mmol), ethylene diamine (0.216 ml, 3.16 mmol) and sodium tetrasulfide (7 mg, 0.04 mmol) was stirred for 4 hrs at 75° C., then cooled and stirred with water (ca 6 ml). The solid was filtered off, washed with water and dried in a vacuum to yield 2-[1-(2-methyl-3-trifluoromethyl-phenoxy)-propyl]-4,5-dihydro-1H-imidazole (m.p. 120-122° C.).

reactant | 2-(2-methyl-3-trifluoromethyl-phenoxy)-butyronitrile | 0.790 mmol, 192 mg | CC1=C(OC(C#N)CC)C=CC=C1C(F)(F)F | C12H12F3NO
reactant | ethylene diamine | 3.16 mmol, 0.216 ml | C(CN)N | C2H8N2
reactant | sodium tetrasulfide | 0.04 mmol, 7 mg | [S-]SS[S-].[Na+].[Na+]
solvent | water | ca 6 ml | O | H2O
product | 2-[1-(2-methyl-3-trifluoromethyl-phenoxy)-propyl]-4,5-dihydro-1H-imidazole | CC1=C(OC(CC)C=2NCCN2)C=CC=C1C(F)(F)F | C14H17F3N2O
